US04710585
A 50-ml three-neck flask was charged with 2.01 g of sodium hydroxide, 10 ml of water and 20 ml of ethanol, and 3.16 g of 4-n-hydroxybenzoic acid was dissolved in the charge. 4.75 g of optically active 1-bromo-6-methyloctane synthesized from commercially available amyl alcohol was added to the mixture, and reaction was carried out for 19 hours under heat and reflux. After completion of the reaction, ether washing was conducted, and the aqueous layer was recovered by filtration and made acidic. The precipitated crystals were recovered by filtration and purified to obtain 4.75 g of 4-(6-methyloctyloxy)benzoic acid.

reactant | sodium hydroxide | 2.01 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | 1-bromo-6-methyloctane | BrCCCCCC(CC)C | C9H19Br
reactant | amyl alcohol | C(CCCC)O | C5H12O
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(6-methyloctyloxy)benzoic acid | 4.75 g | CC(CCCCCOC1=CC=C(C(=O)O)C=C1)CC | C16H24O3
